US07888366B2
To a cold (ice water) suspension of sodium hydride (216 mg; 5.0 mmol) in anhydrous DMF (4 mL) is added a solution of 2-iodobenzyl alcohol (1.17 gm; 5.0 mmol) in anhydrous DMF (5 mL) over 10 minutes. After allowing to room temperature over 45 minutes, this solution is added to a cold (ice water) stirred solution of 2,6-difluorobenzonitrile (702 mg; 5.0 mmol) in anhydrous DMF (3 mL), and allowed to room temperature over 4 hours. The reaction mixture is poured into ice water with vigorous stirring and the resulting solid is filtered, washed with water, and dried under vacuum at 40° C. for 3 hours to give 1.40 grams of 2-fluoro-6-(2-iodobenzyloxy)-benzonitrile.

reactant | sodium hydride | 5.0 mmol, 216 mg | [H-].[Na+]
reactant | 2-iodobenzyl alcohol | 5.0 mmol, 1.17 gm | IC1=C(CO)C=CC=C1 | C7H7IO
reactant | 2,6-difluorobenzonitrile | 5.0 mmol, 702 mg | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-6-(2-iodobenzyloxy)-benzonitrile | 1.40 grams | FC1=C(C#N)C(=CC=C1)OCC1=C(C=CC=C1)I | C14H9FINO
